US08703946B2
4-Fluorobenzoyl chloride (0.14 mL, 1.2 mmol) was added to a stirred solution of 4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine (0.3 g, 1.0 mmol) and pyridine (0.16 mL, 2.0 mmol) in DCM (13 mL) under N2 at 0° C. The reaction was stirred at room temperature for 1 hour, diluted with a saturated solution of Na2CO3 and extracted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo. The desired product was triturated with DIPE to yield 5-(4-fluorobenzoyl)-4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine (0.21 g, 59% yield) as a white solid. C20H18FN3O2 1H NMR (500 MHz, CDCl3) δ ppm 4.07 (br. s., 2H), 4.27 (br. s., 2H), 4.81 (br. s., 2H), 5.05 (s, 2H), 6.16 (br. s., 1H), 6.96 (dd, J=7.5, 7.2 Hz, 1H), 6.99 (d, J=8.4 Hz, 2H), 7.15 (t, J=8.5 Hz, 2H), 7.29 (dd, J=8.1, 7.8 Hz, 2H), 7.49 (dd, J=8.5, 5.3 Hz, 2H).

reactant | 4-Fluorobenzoyl chloride | 1.2 mmol, 0.14 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine | 1.0 mmol, 0.3 g | O(C1=CC=CC=C1)CC1=NN2C(CNCC2)=C1 | C13H15N3O
reactant | pyridine | 2.0 mmol, 0.16 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-(4-fluorobenzoyl)-4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine | 0.21 g, 59% yield | FC1=CC=C(C(=O)N2CC=3N(CC2)N=C(C3)COC3=CC=CC=C3)C=C1 | C20H18FN3O2
